AND2 PEX input-capacitance characterization
* Capacitance = charge delivered/absorbed by an input source divided by VDD.
* Each input is toggled with the other input held at its sensitizing value:
* B=0 for A, and A=1.8 V for B.  Outputs are unloaded except for PEX parasitics.

.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include and2_pex.spice
.include invx1_pex.spice

.param SR = 1000e-12
.param Cl = 100e-15

.param TR = 2e-9 - SR

VDD vdd 0 1.8

VIN1 in1 0 PULSE(1.8 0 0 {SR} {SR} {TR} 4n)
VIN2 in2 0 1.8

XAND1 in2 in1 vdd 0 out AND2
*XINV1 out 0 VDD 0 INVX1
Cload out 0 {Cl}

.tran 1p 8n

.control
run
    meas tran tr TRIG V(out) VAL=0.36 RISE=1 TARG V(out) VAL=1.44 RISE=1
    meas tran tf TRIG V(out) VAL=1.44 FALL=1 TARG V(out) VAL=0.36 FALL=1

    let tf = tf
    let tr = tr

    meas tran tphl TRIG V(in1) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 RISE=1
    meas tran tplh TRIG V(in1) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 FALL=1

    meas tran q_a_rise INTEG par('-i(VIN1)') FROM=2n TO= '2n+SR'
    meas tran q_a_fall INTEG par('i(VIN1)')  FROM=4n TO= '4n+SR'


    meas tran a_rise_cap PARAM='q_a_rise/1.8'
    meas tran a_fall_cap PARAM='q_a_fall/1.8'
    meas tran a_average_cap PARAM='(a_rise_cap+a_fall_cap)/2'

    *plot V(in1) V(in2) 
    *plot  V(in1) V(out) 
    *plot I(vdd)
    print tr tf tphl tplh
    *print q_b_rise q_b_fall 
    print a_rise_cap a_fall_cap a_average_cap

    *---------------------------DYNAMIC POWER------------------------------
    let p_inst = -v(vdd) * i(VDD)

    meas tran tr_start WHEN v(in1)=1.62 FALL=1
    meas tran tr_end   WHEN v(out)=1.62 RISE=1

    meas tran rise_energy INTEG p_inst FROM=tr_start TO=tr_end
    let delta_tr = tr_end - tr_start
    let p_dynamic_rise = rise_energy / delta_tr

    print tr_start tr_end
    print rise_energy
    print p_dynamic_rise
    print '------------------------------------------------------------------'

    meas tran tf_start WHEN v(in1)=0.18 RISE=1
    meas tran tf_end   WHEN v(out)=0.18 FALL=1

    meas tran fall_energy INTEG p_inst FROM=tf_start TO=tf_end
    let delta_tf = tf_end - tf_start
    let p_dynamic_fall = fall_energy / delta_tf

    print tf_start tf_end
    print fall_energy
    print p_dynamic_fall

    echo "========================================" >> simulation_results.txt
    echo "Parameters_Slew = 1000" >> simulation_results.txt
    echo "Parameters_Cap = 100" >> simulation_results.txt

    echo "Rise_time = $&tr" >> simulation_results.txt
    echo "Fall_time = $&tf" >> simulation_results.txt
    
    echo "PHL_time = $&tphl" >> simulation_results.txt
    echo "PLH_time = $&tplh" >> simulation_results.txt

    echo "p_dynamic_rise = $&p_dynamic_rise" >> simulation_results.txt
    echo "p_dynamic_fall = $&p_dynamic_fall" >> simulation_results.txt
    echo "========================================" >> simulation_results.txt

.endc

.end